US04470988
A solution of 5-(2-aminophenyl)-2-phthalimidopentanoic acid (3.5 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.9 g) in dimethylformamide (85 ml) is stirred at room temperature under a nitrogen atmosphere for 65 hours. The solvent is removed under high vacuum and the residue distributed between ethyl acetate (250 ml) and water (150 ml). The organic phase is washed with 2N sodium hydroxide (100 ml) and water (100 ml), and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue recrystallized from methanol/ethyl acetate to give 3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one, mp 229°-230° C., used without further purification in the next synthetic step.

reactant | 5-(2-aminophenyl)-2-phthalimidopentanoic acid | 3.5 g | NC1=C(C=CC=C1)CCCC(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C19H18N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one | C1(C=2C(C(N1C1C(NC3=C(CCC1)C=CC=C3)=O)=O)=CC=CC2)=O | C19H16N2O3
